US20010018525A1
5-Bromo-6-hydroxy-3′-trifluoromethyl-biphenyl-3-carboxylic acid (8-phenyl-octyl)-amide
The title compound was prepared as a white gum (0.976 g, 58%) from N-(8-phenyl-octyl)-3,5-bis(m-trifluoromethylphenyl)-4-hydroxy-benzamide using a procedure similar to Example 191. 1H NMR (DMSO-d6) δ9.84 (s, 1H); 8.42 (t, 1H); 8.04 (d, 1H); 7.85-7.67 (m, 5H); 7.26-7.10 (m, 5H); 3.21 (dd, 2H); 2.52 (t, 2H); 1.50 (m, 4H); 1.26 (m, 8H); IR (KBr) 3330, 2950, 2850, 1620, 1550, 1495, 1470, 1330, 1220, 1170, 1120, 1100, 1080 cm−1; mass spectrum [(+)APCI], m/z 549 (M+H)+; Anal. Calcd. for C28H29F3NO2: C, 61.32; H, 5.33; N, 2.55, Found: C, 61.02; H, 5.29; N, 2.51.

reactant | N-(8-phenyl-octyl)-3,5-bis(m-trifluoromethylphenyl)-4-hydroxy-benzamide | C1(=CC=CC=C1)CCCCCCCCNC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)O)C1=CC(=CC=C1)C(F)(F)F)=O | C35H33F6NO2
reactant | KBr | [K+].[Br-]
product | 5-Bromo-6-hydroxy-3′-trifluoromethyl-biphenyl-3-carboxylic acid (8-phenyl-octyl)-amide | C1(=CC=CC=C1)CCCCCCCCNC(=O)C=1C=C(C(=C(C1)Br)O)C1=CC(=CC=C1)C(F)(F)F | C28H29BrF3NO2
